Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Indocin / Aspirin / Tramadol / Butazolidin
 
Attending: ___.
 
Chief Complaint:
back pain, constipation
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Patient is a ___ year old with h/o constipation, spinal DJD, 
cervical DJD with stenosis s/p fusion, presenting today with 
lower back pain.

She reports the lower back pain started on ___, associated 
with severe constipation (usually goes every day). The pain is 
lower back as well as lower abdomen. She usually gets neck pain 
due to her chronic cervical spinal issues, and the lower back 
pain is more acute. She also reported decreased urine output 
over the past few days, which she has been trying to correct by 
drinking large amounts of water. Never had these symptoms 
before, especially the pain was quite severe at its onset. No 
fevers, IVDU. No cough, ST, rhinorrhea, naus, vomiting. ROS 
positive for poor fluid intake chronically. 

 In the ED, initial VS were: 98 68 143/96 14 100% RA 
  
 ED physical exam was recorded as: uncomfortable, no respiratory 
distress, shaking in bed but speaking in full sentences ___ str 
all extr, SILT BUE/BLE, rectal without stool ball, intact 
perianal sensation, intact rectal tone, downgoing Babinski 
bilaterally

ED labs were notable for: Na 123 --> 125 (without fluids)
lactate 2.2
P 2.1

serum Osm 260, UOsm 343
UNa 82

 Imaging showed:
CT: 1. Mild intrahepatic biliary ductal dilatation, moderate 
gallbladder
distension and the common bile duct measuring 14 mm. No 
cholelithiasis or
choledocholithiasis identified. These findings are likely 
longstanding and
perhaps related to ampullary stenosis. Recommend correlation 
with LFTs.
2. 5.6 cm simple cyst centered in the right pelvis may represent 
a
peritoneal/mesenteric cyst or enlarged ovarian cyst. The uterus 
is not
present and the ovaries are not clearly visualized..
3. Diverticulosis of the sigmoid colon without evidence of 
diverticulitis.
4. No evidence of bowel obstruction. Stool is seen throughout 
the large bowel
consistent with mild to moderate constipation.

MRI: Cervical spine: Comparison is made to MRI on ___. At C3-4 there is moderate to severe canal narrowing with 
deformity of the cord, not
significantly increased from ___. Increased cord signal at this 
level may
relate to myelomalacia and also appears overall similar to the 
prior
examination. At C4-5, there is moderate canal narrowing and 
bilateral moderate to severe foraminal narrowing, not 
significantly increased from the prior examination.

Thoracic and lumbar: No evidence of cord compression, cord 
signal abnormality
or nerve root compression. Moderate multilevel degenerative 
changes are seen
throughout the thoracolumbar spine. Multiple disc protrusions 
throughout the
lumbar spine mildly narrow the spinal canal however there is no 
compression of
the nerve roots. Multilevel, moderate to severe neuroforaminal 
stenosis is
identified involving the lumbar spine.

 Patient was given:
___ 22:43 IV Morphine Sulfate 4 mg ___  
___ 22:43 IV Ondansetron 4 mg ___  
___ 22:44 IV Diazepam 2.5 mg ___  
___ 23:45 IV Morphine Sulfate 2 mg ___ Partial 
Administration  
___ 01:57 IV Diazepam 2.5 mg ___  
___ 04:12 IV Morphine Sulfate 4 mg ___  
___ 09:44 IV Ondansetron 4 mg ___  
___ 09:44 PO/NG Gabapentin 100 mg ___  
___ 12:06 PO/NG Gabapentin 100 mg ___  
___ 12:06 IV Ondansetron 4 mg ___  
___ 12:06 PO/NG Lactulose 15 mL ___  
___ 12:06 PO/NG Senna 8.6 mg ___  

Pt was also given an enema in the ED with subsequent BM and 
significant improvement in her pain.

Seen by neurology:  "Overall, her examination appears at 
baseline compared to previous outpt neurology notes. The 
etiology of her urinary retention is unclear but many possible 
factors, including: chronic cervical stenosis/myelopathy, 
pharmacologic ___ chronic opiate use, anatomical obstruction 
such as from constipation, and pain. Acute cord compression from 
a disc rupture or unstable anterolisthesis/subluxation is 
possible but seems less likely with no change in her neurologic 
examination."

Admitted for further evaluation of hyponatremia, urinary 
retention

Transfer VS were: 98.7 75 129/46 16 99% RA 
 When seen on the floor,  she reports significant improvement in 
her sxs. She is anxious about being constipated, but otherwise 
feels comfortable.
  
REVIEW OF SYSTEMS: 
 A ten point ROS was conducted and was negative except as above 
in the HPI.

 
Past Medical History:
Multilevel degenerative spine disease s/p C5-7 fusion 
laminectomy in ___
HLD
Osteoarthritis
GERD
Chronic constipation
Polyneuropathy

Surgical Hx:
hysterectomy

 
Social History:
___
Family History:
NC
 
Physical Exam:
 Gen: NAD, pleasant, lying in bed
 Eyes: EOMI, sclerae anicteric  
 ENT: MMM, OP clear
 Cardiovasc: RRR, no MRG, full pulses, no edema  
 Resp: normal effort, no accessory muscle use, lungs CTA ___.
 GI: soft, non distended, tender to palpation in lower abdomen, 
BS+
 MSK: No significant kyphosis. No palpable synovitis.
 Skin: No visible rash. No jaundice.
 Neuro: AAOx3. No facial droop.
 Psych: Full range of affect
 GU: Foley catheter in place draining clear urine
 
Pertinent Results:
___ 09:55PM   SODIUM-128*
___ 11:30AM   GLUCOSE-112* UREA N-11 CREAT-0.5 SODIUM-125* 
POTASSIUM-4.4 CHLORIDE-92* TOTAL CO2-20* ANION GAP-17
___ 11:30AM   CALCIUM-8.4 PHOSPHATE-3.3
___ 02:00AM   CALCIUM-8.5 PHOSPHATE-2.1* MAGNESIUM-1.7
___ 10:10PM   GLUCOSE-104* UREA N-15 CREAT-0.7 SODIUM-123* 
POTASSIUM-4.5 CHLORIDE-87* TOTAL CO2-18* ANION GAP-23*
___ 10:10PM   ALBUMIN-4.4
___ 10:10PM URINE  COLOR-Straw APPEAR-Clear SP ___

CT: Final Report
EXAMINATION:  CT abdomen and pelvis
 
INDICATION:  ___ with intermittent/recurrent ABD painNO_PO 
contrast// Eval for
acute process
 
TECHNIQUE:  Single phase split bolus contrast: MDCT axial images 
were acquired
through the abdomen and pelvis following intravenous contrast 
administration
with split bolus technique.
Oral contrast was not administered.
Coronal and sagittal reformations were performed and reviewed on 
PACS.
 
DOSE:  Acquisition sequence:
   1) Stationary Acquisition 7.5 s, 0.5 cm; CTDIvol = 36.1 mGy 
(Body) DLP =
18.1 mGy-cm.
   2) Spiral Acquisition 4.2 s, 46.4 cm; CTDIvol = 7.3 mGy 
(Body) DLP = 340.3
mGy-cm.
 Total DLP (Body) = 358 mGy-cm.
 
COMPARISON:  None.
 
FINDINGS: 
 
LOWER CHEST: The lung bases are clear bilaterally. The 
visualized heart and
pericardium are normal.
 
HEPATOBILIARY: The liver is normal in size and attenuation.  
Subcentimeter
hypodensities throughout the liver are too small to definitively 
characterize
on CT.  A 1.7 cm simple cyst is identified in the left lobe of 
the liver.  The
portal vein is patent.  There is mild intrahepatic biliary 
ductal dilatation,
greater on the left than right.  The gallbladder is minimally 
distended
however there is no gallbladder wall thickening or radiopaque 
gallstones.  The
common bile duct measures up to 14 mm and tapers at the level of 
the ampulla. 
No common duct stones are identified.
 
SPLEEN: The spleen is normal in size and attenuation.  Superior 
to the spleen,
beneath the left hemidiaphragm is a thin-walled, 3.9 x 4.9 cm 
simple cystic
structure.
 
PANCREAS: The pancreas is atrophic.  There is no pancreatic 
ductal dilatation.
No peripancreatic fat stranding is seen.
 
ADRENALS: The adrenals are normal.
 
URINARY: Subcentimeter hypodensities throughout both kidneys are 
too small to
characterize on CT.  There is no hydronephrosis in either 
kidney.
 
GASTROINTESTINAL: Small bowel loops are normal in caliber.  Of 
note, there is
a focally prominent loop of jejunum adjacent to an area of 
swirling mesentery
however there is no evidence small bowel obstruction.  The colon 
is within
normal limits and filled with stool.  There is scattered 
diverticulosis of the
sigmoid colon without evidence of diverticulitis.
 
LYMPH NODES: No lymphadenopathy.
 
VASCULAR: The aorta is normal in caliber and demonstrates 
moderate
atherosclerosis.
 
PELVIS: The bladder is mostly decompressed around a Foley 
catheter.  Within
the right hemipelvis is a 5.1 x 5.6 cm simple cyst.  The patient 
is status
post hysterectomy.  There is no pelvic lymphadenopathy.
 
BONES AND SOFT TISSUES: Mild degenerative change of the lumbar 
spine is
identified.  No is aggressive osseous lesions.
 
 
IMPRESSION:
 
 
1. Mild intrahepatic biliary ductal dilatation, moderate 
gallbladder
distension and the common bile duct measuring 14 mm.  No 
cholelithiasis or
choledocholithiasis identified.  These findings are likely 
longstanding and
perhaps related to ampullary stenosis.  Recommend correlation 
with LFTs and
further evaluation with MRCP.  Large, perisplenic cyst can be 
re-evaluated at
that time.
2. 5.6 cm simple cyst centered in the right pelvis may represent 
a
peritoneal/mesenteric cyst or enlarged ovarian cyst.  The uterus 
is not
present and the ovaries are not clearly visualized.  Recommend 
follow-up with
pelvic ultrasound in 3 months.
3. Diverticulosis of the sigmoid colon without evidence of 
diverticulitis.
4. No evidence of bowel obstruction.  Stool is seen throughout 
the large bowel
consistent with mild to moderate constipation.
 
RECOMMENDATION(S):  Short-term MRCP and pelvic ultrasound in 3 
months.

MRI
IMPRESSION:
 
 
1. No evidence of discrete fluid collection or abscess.
2. Osseous fusion of C5 through C7 vertebral bodies with severe 
C3-C4 and
moderate to severe C4-C5 spinal canal stenosis, C3-C4 cord edema 
or
myelomalacia unchanged from the prior study from ___.
3. Slight progression of mild spinal canal stenosis at C1-C2.
4. Multilevel lumbar spondylosis with mild spinal canal 
stenosis, and moderate
to severe multilevel neural foraminal narrowing, worse at L4-L5 
as detailed
above.
5. Multinodular thyroid gland as seen on prior thyroid 
ultrasound ___.

UCX: no growth
 
Brief Hospital Course:
Pt is an ___ y.o woman with h.o constipation, spinal DJD, 
cervical
stenosis s/p fusion, GERD who presented with constipation,
urinary retention, minor LBP and found to have hyponatremia. 

#constipation
#lower back pain
s/p spine MRI with chronic  degenerative changes, stenosis, no 
signs of cord compression.
Able to ambulate freely. Pain resolved with relief of
constipation. Neurology evaluated the patient and recommended 
consideration of spine consult for her stenosis and degenerative 
changes but can be done as outpt. Referral made for appointment. 

Pt advised to continue senna, colace and use prn dulcolax, 
miralax prn 

#urinary retention-likely due to above. S/p foley, passed 
voiding
trial after had large BM. 

#hyponatremia-in the setting of increasing PO intake and pain.
C/W SIADH. Pt reports does not usually drink water and recently
significantly increased intake in last few days. Resolved with 
fluid restriction. Given rapid correction and acute setting, 
advised pt that she does not have any fluid restriction on 
discharge and to drink to thirst and light yellow urine output. 
Advised her to see PCP early next week and to have repeat sodium 
levels check early next week.  

#intrahepatic ductal dilatation on iagming-no stones seen, LFTs
WNL. 
***Will need outpt MRCP

#chronic osteoarthritis
#cervical DJD with stenosis s/p fusion
Continued home atypical gabapentin regimen, celecoxib and 
Tylenol with
codeine at home. 

#****pelvic cyst-f/u pelvic u/s in 3 months. 

INcidental radiographic findings: that will require f/u
  
"IMPRESSION:  
1. Mild intrahepatic biliary ductal dilatation, moderate
gallbladder distension and the common bile duct measuring 14 mm. 

No cholelithiasis or choledocholithiasis identified.  These
findings are likely longstanding and perhaps related to 
ampullary
stenosis.  Recommend correlation with LFTs and 
further evaluation with MRCP.  Large, perisplenic cyst can be
re-evaluated at that time. 
2. 5.6 cm simple cyst centered in the right pelvis may represent
a peritoneal/mesenteric cyst or enlarged ovarian cyst.  The
uterus is not present and the ovaries are not clearly 
visualized.
Recommend follow-up with pelvic ultrasound in 3 months. 
3. Diverticulosis of the sigmoid colon without evidence of
diverticulitis. 
4. No evidence of bowel obstruction.  Stool is seen throughout
the large bowel consistent with mild to moderate constipation. 
RECOMMENDATION(S):  Short-term MRCP and pelvic ultrasound in 3
months. "

Transitional care 
1. MRCP
2.pelvic u/s 3 months
3.repeat sodium 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO Frequency is Unknown 
2. Gabapentin 100 mg PO Q3H:PRN pain 
3. LORazepam 1 mg PO BID 
4. Celecoxib 100 mg oral BID 
5. Omeprazole 20 mg PO DAILY 
6. Cal-Citrate (calcium citrate-vitamin D2) 400 mg oral DAILY 
7. Cyanocobalamin 1000 mcg PO DAILY 
8. Gabapentin 200 mg PO QHS 
9. Acetaminophen w/Codeine 1 TAB PO BID:PRN Pain - Moderate 

 
Discharge Medications:
1.  Bisacodyl 10 mg PR QHS:PRN constipation  
2.  Docusate Sodium 100 mg PO BID 
you can purchase over the counter if needed   
3.  Polyethylene Glycol 17 g PO DAILY:PRN constipation 
you can purchase over the counter if needed. If senna and Colace 
not effective  
4.  Senna 8.6 mg PO BID 
you can purchase over the counter if needed   
5.  Acetaminophen w/Codeine 1 TAB PO BID:PRN Pain - Moderate  
6.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
7.  Cal-Citrate (calcium citrate-vitamin D2) 400 mg oral DAILY  
8.  Celecoxib 100 mg oral BID  
9.  Cyanocobalamin 1000 mcg PO DAILY  
10.  Gabapentin 100 mg PO Q3H:PRN pain  
11.  Gabapentin 200 mg PO QHS  
12.  LORazepam 1 mg PO BID  
13.  Omeprazole 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
constipation
urinary retention 
hyponatremia
back pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted for monitoring after having constipation, 
urinary retention and low blood sodium levels. You also had back 
pain. You were treated with laxatives for constipation with good 
effect. When your constipation resolved, your urinary retention 
resolved as well and you were able to urinate without a foley 
catheter without difficulty.  Your pain also improved after 
moving your bowels. You also had a low blood sodium which was 
likely a result of drinking a lot of water recently. This 
improved with a fluid restriction. 
Your sodium returned to normal. Therefore, at the time of 
discharge you DO NOT have a fluid restriction. Please drink 
liquids to thirst and to maintain urine a light yellow color. 

You will need to have your labs checked ___ at Dr. ___ 
office to make sure that your blood sodium remains stable. 

In addition, the neurology team recommended that you see a spine 
surgeon to discuss your prior spine surgery. 
 
Followup Instructions:
___